US09382248B2
A. Preparation of ethyl 5-bromo-3-methylpicolinate (2)
To a stirring solution of 5-bromo-3-methylpicolinic acid (10000 g, 1 equiv, 46.29 moles) in ethanol (50 L) at 0° C. was added sulfuric acid (2.52 L, 1 equiv, 46.29 moles) over 1 h. Following addition of sulfuric acid, the mixture was heated at 95° C. for 20 h. Reaction progress was monitored by using TLC and LCMS. After 20 hours, LCMS showed 12.61% unreacted SM, at RT-0.67 ((M−1)−215.92) and 86.95% product at RT-2.04 ((M+1)−244.2). The reaction mass heated for additional 6 h and LCMS analysis following the additional heating showed 10.07% unreacted SM, at RT-0.7 and 89.93% product at RT-2.08 ((M+1)−244.2. The reaction was stopped by concentrating the reaction mixture under reduced pressure to remove as much solvent as possible. To the residue was added dichloromethane (DCM), (25 L) and the reaction mixture was poured into ice cold water (20 L). The organic (DCM) layer was separated from the aqueous layer and the latter was further extracted twice with DCM (10 L). The combined organic layers were washed with saturated sodium bicarbonate solution (30 L), dried over sodium sulfate, and concentrated under reduced pressure to obtain a brown oil. This brown oil was used in the next step without further purification. Yield: 10.1 Kg, (89.4%); MS (ESI) m/z 244.2 [M+1]+; LCMS purity: 99.11%; 1H NMR (400 MHz, DMSO-d6) δ: 8.61 (s, 1H), 8.13 (s, 1H), 4.29 (q, 2H), 2.44 (s, 1H), 1.28 (t, 3H).

reactant | 5-bromo-3-methylpicolinic acid | 46.29 moles, 10000 g, 1 equiv | BrC=1C=C(C(=NC1)C(=O)O)C | C7H6BrNO2
reactant | sulfuric acid | 46.29 moles, 2.52 L, 1 equiv | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 L | C(C)O | C2H6O
product | ethyl 5-bromo-3-methylpicolinate | BrC=1C=C(C(=NC1)C(=O)OCC)C | C9H10BrNO2
